US08791119B2
To a suspension of 53.7 g (464 mmol) of potassium tert-butoxide in 500 ml of anhydrous tetrahydrofuran is added dropwise a mixture of 48.5 g (330 mmol) of the mixture of 50.0 g (387 mmol) of cinnamonitrile (CAS 1885-38-7) and 75.6 g (387 mmol) of tosylmethyl isocyanide (CAS 36635-61-7) dissolved in 500 ml of tetrahydrofuran, while maintaining the temperature of the reaction medium at about 25° C. The mixture is then stirred for 1 hour 30 minutes at room temperature and is then poured into saturated sodium chloride solution. The reaction product is then extracted with ethyl acetate, the organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give a brown solid, which is dissolved in 350 ml of hot chloroform and purified by chromatography on silica gel, eluting with dichloromethane, to give 44.3 g of 4-phenyl-1H-pyrrole-3-carbonitrile in the form of a beige-coloured powder after triturating in diisopropyl ether, filtering off and drying.

reactant | potassium tert-butoxide | 464 mmol, 53.7 g | CC(C)([O-])C.[K+]
reactant | cinnamonitrile | 387 mmol, 50.0 g | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | tosylmethyl isocyanide | 387 mmol, 75.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-phenyl-1H-pyrrole-3-carbonitrile | 44.3 g | C1(=CC=CC=C1)C=1C(=CNC1)C#N | C11H8N2
